US05955060
Grignard reaction: In a 500 ml sulfonating flask having a stirrer, dropping funnel, condenser and internal thermometer, 7.3 g (0.3 mol) of magnesium turnings and a few grains of iodine are initially introduced into 60 ml of dry tetrahydrofuran (THF). Under dry protective gas (nitrogen), 56.1 g (0.3 mol) of 4-bromoanisole, dissolved in 100 ml of THF, are slowly added dropwise at 60° C. After the complete dissolution of the Mg turnings, the mixture is stirred at 60° C. for 90 minutes. The Grignard solution is then added dropwise at 5° C. under nitrogen in the course of 60 minutes to a solution of 55.3 g (0.3 mol) of cyanuric chloride in 150 ml of THF. The mixture is evaporated to dryness at room temperature, 500 ml of dil. hydrochloric acid are allowed to run in and the mixture is extracted with 300 ml of methylene chloride. For working-up, the solvent is removed in vacuo, and the semisolid residue is tritrated with a little isopropanol and filtered off with suction. Purification is carried out by recrystallization from toluene/hexane (1:1). 62.8 g (82% of theory) of 6-(4-methoxyphenyl)-2,4-dichloro-1,3,5-triazine are obtained (m.p.: 131-134° C.).

reactant | magnesium | 0.3 mol, 7.3 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromoanisole | 0.3 mol, 56.1 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | cyanuric chloride | 0.3 mol, 55.3 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | THF | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 6-(4-methoxyphenyl)-2,4-dichloro-1,3,5-triazine | 62.8 g, 82% | COC1=CC=C(C=C1)C1=NC(=NC(=N1)Cl)Cl | C10H7Cl2N3O
